US04464361
3,3,5-Trimethoxy-2-pyrrolidinone (445 mg) was evenly admixed with adenosine 2',3',5'-triacetate (1 g) and the mixture was melted and reacted by heating at 160° C. for 2 hours. The reaction mixture was then allowed to cool and subjected to silica gel column chromatography using benzene-acetone (2:1) as the eluent to give N6 -(3,3-dimethoxy-2-oxo-5-pyrrolidinyl)adenosine 2',3',5'-triacetate (1 g). This product was dissolved in ammonia-saturated methanol (30 ml) and left standing at 5° C. for 17 hours, after which time it was concentrated under reduced pressure. The residue was washed with benzene and the insolubles were subjected to silica gel column chromatography using chloroform-methanol (10:1) as the eluent. The active fractions were pooled and concentrated under reduced pressure to give crystals. Recrystallization from methanol-acetone yielded N6 -(3,3-dimethoxy-2-oxo-5-pyrrolidinyl)adenosine as colorless crystals (680 mg).

reactant | 3,3,5-Trimethoxy-2-pyrrolidinone | 445 mg | COC1(C(NC(C1)OC)=O)OC | C7H13NO4
reactant | adenosine 2',3',5'-triacetate | 1 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(N)=NC=NC12 | C16H19N5O7
solvent | benzene acetone | C1=CC=CC=C1.CC(=O)C
product | N6 -(3,3-dimethoxy-2-oxo-5-pyrrolidinyl)adenosine 2',3',5'-triacetate | 1 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC3CC(C(N3)=O)(OC)OC)=NC=NC12 | C22H28N6O10
